US09212168B2
(a) (2S,4S)-tert-butyl 2-(4 (2′ chloro 4′ ((6 ((R)-2 methyl-4-pivaloylpiperazin-1-yl)pyridin-3-yl)carbamoyl)-6′-(trifluoromethoxy)-[1,1′-biphenyl]-4-yl)-1H-imidazol-2-yl)-4-methylpyrrolidine-1-carboxylate
To a mixture of (R)-4-bromo-3-chloro-N-(6-(2-methyl-4-pivaloylpiperazin-1-yl)pyridin-3-yl)-5-(trifluoromethoxy)benzamide (80.3 mg, 0.14 mmol; Preparation 51) and (2S,4S)-tert-butyl 4-methyl-2-(4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-imidazol-2-yl)pyrrolidine-1-carboxylate (63.0 mg, 0.14 mmol) in a mixture of toluene (0.9 mL) and water (0.3 mL) was added potassium carbonate (86 mg, 0.63 mmol). The reaction mixture was flushed with nitrogen, PdCl2(dppf) (6.1 mg, 8.34 μmol) was added. The reaction mixture was capped, heated at 100° C. overnight, cooled to RT and partitioned between EtOAc (5 mL) and water (2 mL). The organic layer was dried over sodium sulfate, filtered and concentrated to give a brown oil, which was purified by silica gel chromatography (12 g silica gel, 0-100% EtOAc/hexanes). Desired fractions were combined and concentrated to give the title intermediate (58.1 mg, 51% yield) as a yellowish oil. (m/z): [M+H]+ calcd for C42H49ClF3N2O5 824.34. found 824.

reactant | (R)-4-bromo-3-chloro-N-(6-(2-methyl-4-pivaloylpiperazin-1-yl)pyridin-3-yl)-5-(trifluoromethoxy)benzamide | 0.14 mmol, 80.3 mg | BrC1=C(C=C(C(=O)NC=2C=NC(=CC2)N2[C@@H](CN(CC2)C(C(C)(C)C)=O)C)C=C1OC(F)(F)F)Cl | C23H25BrClF3N4O3
reactant | (2S,4S)-tert-butyl 4-methyl-2-(4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-imidazol-2-yl)pyrrolidine-1-carboxylate | 0.14 mmol, 63.0 mg | C[C@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C=1NC=C(N1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C25H36BN3O4
reactant | potassium carbonate | 0.63 mmol, 86 mg | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 0.9 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 0.3 mL | O | H2O
catalyst | PdCl2(dppf) | 8.34 μmol, 6.1 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (2S,4S)-tert-butyl 2-(4 (2′ chloro 4′ ((6 ((R)-2 methyl-4-pivaloylpiperazin-1-yl)pyridin-3-yl)carbamoyl)-6′-(trifluoromethoxy)-[1,1′-biphenyl]-4-yl)-1H-imidazol-2-yl)-4-methylpyrrolidine-1-carboxylate | 58.1 mg, 51% yield | ClC1=C(C(=CC(=C1)C(NC=1C=NC(=CC1)N1[C@@H](CN(CC1)C(C(C)(C)C)=O)C)=O)OC(F)(F)F)C1=CC=C(C=C1)C=1N=C(NC1)[C@H]1N(C[C@H](C1)C)C(=O)OC(C)(C)C | C42H49ClF3N7O5
